US07919498B2
Prepared according to Procedure J using 3-iodo-1-((8-methyl-2-(2-(trifluoromethyl)phenyl)quinolin-3-yl)methyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.1 g, 0.1785 mmol, 1 eq), 3-hydroxyphenylboronic acid (0.0492 g, 0.357 mmol, 2.0 eq), tetrakis(triphenylphosphine)palladium (0.0206 g, 0.0178 mmol, 10 mol %), and sodium carbonate (2M aq. sol, 0.535 mL, 1.07 mmol, 6 eq) in DMF (1 mL). After purification, 3-(4-amino-1-((8-methyl-2-(2-(trifluoromethyl)phenyl)quinolin-3-yl)methyl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl)phenol was obtained as light gray solid. The gray solid was suspended in CH2Cl2 and filtered to provide 3-(4-amino-1-((8-methyl-2-(2-(trifluoromethyl)phenyl)quinolin-3-yl)methyl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl)phenol [PI3Kδ IC50=8 nM] as off-white solid. 1H NMR (DMSO-d6) δ ppm 9.65 (1 H, s), 8.28 (1 H, s), 8.04 (1 H, s), 7.87 (1 H, d, J=7.8 Hz), 7.74-7.80 (1 H, m), 7.64 (1 H, d, J=7.0 Hz), 7.56-7.61 (2 H, m), 7.50-7.56 (1 H, m), 7.34-7.38 (1 H, m), 7.30 (1 H, t, J=7.8 Hz), 6.94-7.02 (2 H, m), 6.80-6.87 (1 H, m), 5.53 (2 H, s), 2.60 (3 H, s). Mass Spectrum (ESI) m/e=527.2 (M+1).

reactant | 3-iodo-1-((8-methyl-2-(2-(trifluoromethyl)phenyl)quinolin-3-yl)methyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.1785 mmol, 0.1 g, 1 eq | IC1=NN(C2=NC=NC(=C21)N)CC=2C(=NC1=C(C=CC=C1C2)C)C2=C(C=CC=C2)C(F)(F)F | C23H16F3IN6
reactant | 3-hydroxyphenylboronic acid | 0.357 mmol, 0.0492 g, 2.0 eq | OC=1C=C(C=CC1)B(O)O | C6H7BO3
reactant | sodium carbonate | 1.07 mmol, 2M, 0.535 mL, 6 eq | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium | 0.0178 mmol, 0.0206 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(4-amino-1-((8-methyl-2-(2-(trifluoromethyl)phenyl)quinolin-3-yl)methyl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl)phenol | NC1=C2C(=NC=N1)N(N=C2C=2C=C(C=CC2)O)CC=2C(=NC1=C(C=CC=C1C2)C)C2=C(C=CC=C2)C(F)(F)F | C29H21F3N6O
